US06225311B1
tert-Butyl 4-{[4-(2-butynyloxy)phenyl]sulfonyl)-1,4-diazepane-5-carboxylate (0.425 g, 0.96 mmol) in dichloromethane at 25° C. (10 mL) was treated with triethylamine (0.28 mL, 2.02 mmol) followed by benzoyl chloride (0.12 mL, 1.06 mmol) and dimethylaminopyridine (10 mg). After 18 hours aqueous workup gave tert-butyl 1-benzoyl-4-{[4-(2-butynyloxy)phenyl]sulfonyl}-1,4-diazepane-5-carboxylate. 1H NMR (dmso-d6, 300 MH): 1.24 (s, 9H, t-bu), 1.82(s, 3H, CH3 ), 2.0-4.0 (m, 81, CH2 ), 4.65 (s, 1H, CM, 4.85 (s. 21H, CH2 ), 7.0-7.9 (m, 9H, ArH). Treatment with trifluoroacetic acid (4 mL) in dichoromethane (10 mL) for 6hours gave, after concentration in vacuo followed by chromatography on silica gel eluting with dichloromethane/methanol, 1-benzoyl4-{[4-(2-butynyloxy)phenyl]sulfonyl}-1,4-diazepane-5-carboxylic acid as a foam (0.328 g).

reactant | tert-Butyl 4-{[4-(2-butynyloxy)phenyl]sulfonyl)-1,4-diazepane-5-carboxylate | 0.96 mmol, 0.425 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N1CCNCCC1C(=O)OC(C)(C)C | C20H28N2O5S
reactant | triethylamine | 2.02 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 1.06 mmol, 0.12 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | dimethylaminopyridine | 10 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-butyl 1-benzoyl-4-{[4-(2-butynyloxy)phenyl]sulfonyl}-1,4-diazepane-5-carboxylate | C(C1=CC=CC=C1)(=O)N1CCN(C(CC1)C(=O)OC(C)(C)C)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C27H32N2O6S
